US05470878
1-(10,11-dihydroxyundecanyl)-3,7-dimethylxanthine, prepared above (3.6 g, 10 mmol), was stirred with hydrogen bromide (6.2 mL, 8.4 g of a 30% solution in acetic acid, 31.1 mmol) for 90 minutes. The mixture was then added to a flask containing 100 mL aqueous sodium bicarbonate solution and 75 mL dichloromethane. After 10 minutes of vigorous stirring, the layers were separated and an aqueous portion washed with dichloromethane (3×75 mL). The organic portions were combined, dried over magnesium sulfate, and evaporated to give 1-(10-acetoxy-11-bromoundecanyl)-3,7-dimethylxanthine (3.6 g). Without further purification, the bromoacetate was taken up in methanol (25 mL) and treated with a solution of sodium methoxide (prepared from 0.28 g, 12.2 mmol sodium, and 25 mL methanol). After 30 minutes, most of the solvent was removed under reduced pressure and the residue was extracted with dichloromethane (3×75 mL). The organic portions were combined, dried over magnesium sulfate and concentrated under reduced pressure to give an off-white solid, purified by column chromatography over silica gel using dichloromethane/3% methanol eluant to obtain 2.0 g of 1-(10,11-oxidoundecanyl)-3,7-dimethylxanthine (yield, 57.5%).

reactant | 1-(10,11-dihydroxyundecanyl)-3,7-dimethylxanthine | OC(CCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C18H30N4O4
reactant | hydrogen bromide | Br | BrH
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(10-acetoxy-11-bromoundecanyl)-3,7-dimethylxanthine | 3.6 g | C(C)(=O)OC(CCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C20H31BrN4O4
